US07705025B2
2-Bromo-thiazole-5-carbaldehyde O-methyl-oxime
Methoxylamine HCl (1 equivalent) is added portionwise to a stirred pyridine (1 equivalent) solution of 5-bromo-2-thiophene carboxaldehyde (1 equivalent) (CAS 4701-17-1). After 18 hours, reaction is diluted with CH2Cl2 and washed with brine, dried (Na2SO4) and concentrated in vacuo. The crude mixture is purified by silica gel column chromatography (gradient: 0-20% EtOAc/hexanes) to give title intermediate that is confirmed by NMR.

reactant | Methoxylamine HCl | 1 equivalent | Cl.O(C)N
reactant | pyridine | 1 equivalent | N1=CC=CC=C1 | C5H5N
reactant | 5-bromo-2-thiophene carboxaldehyde | 1 equivalent | BrC1=CC=C(S1)C=O | C5H3BrOS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromo-thiazole-5-carbaldehyde O-methyl-oxime | CON=CC1=CN=C(S1)Br | C5H5BrN2OS
